US04801594
B. Preparation of 2-[bis(4-chlorophenyl)methyl]-2H-tetrazole
A mixture of 3.12 g of tetrazole, 26.2 g of potassium carbonate, and 10 g of 4,4'-dichlorobenzhydryl chloride from above in 150 ml of dimethylformamide was heated under a nitrogen atmosphere for 2.5 hours at 85°-90° C. and then overnight at 60°-65° C. The reaction mixture was poured into 1 liter of a saturated aqueous sodium chloride solution which was then extracted twice with 200 ml portions of ethyl acetate. The combined organic extracts were washed three times with a saturated sodium chloride solution, dried over magnesium sulfate, and evaporated to dryness to provide 12.1 g of the crude product as a pale yellow oil. The residue was purified by high pressure liquid chromatography. The primary product which was recovered was 1.1 g of the 2-tetrazole derivative as white crystals when recrystallized from methanol, m.p. 91°-92° C. Mass spectral analysis confirmed that the product had the correct molecular formula (M+ =305) and 13C and 1H NMR NOE experiments confirmed that the primary product was 2-[bis(4-chlorophenyl)methyl]-2H-tetrazole.

reactant | tetrazole | 3.12 g | N1N=NN=C1 | CH2N4
reactant | potassium carbonate | 26.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4,4'-dichlorobenzhydryl chloride | 10 g | ClC1=CC=C(C(C2=CC=C(C=C2)Cl)Cl)C=C1 | C13H9Cl3
reactant | sodium chloride | 1 liter | [Cl-].[Na+]
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 2-[bis(4-chlorophenyl)methyl]-2H-tetrazole | 12.1 g | ClC1=CC=C(C=C1)C(N1N=CN=N1)C1=CC=C(C=C1)Cl | C14H10Cl2N4
